2160-05-29 07:34:00 Physician Resident Progress Note
Chief Complaint: rigors
   24 Hour Events:
   - due to h/o urethral strictures urology called for dilation and foley
   placement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2160-5-29**] 02:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt denies any pain today
   Flowsheet Data as of  [**2160-5-29**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 70 (70 - 91) bpm
   BP: 123/81(91) {86/57(64) - 126/81(91)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 21 (10 - 25)mmHg
   Total In:
                                                                  6,033 mL
   PO:
   TF:
   IVF:
                                                                  1,033 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    320 mL
   Urine:
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,716 mL
   Respiratory support
   SpO2: 93%
   ABG: 7.38/32/86/20/-4
   Physical Examination
   General Pleasant elderly man, appears comfortable
   HEENT Sclera white, conjunctiva pale, MMM
   Neck RIJ in place
   Pulm Lungs with few bilateral rales R>L, +egophony
   CV Regular S1 S2 soft systolic murmur at apex. Well healed sternotomy
   scar
   Abd Soft nontender +bowel sounds RUQ scar
   Extrem Warm 1+ bilateral edema and hyperpigmentation RLE (site of prior
   DVT). Palpable distal pulses
   Neuro Alert and awake, answering appropriately, moving all extremities
   no gross deficits
   Labs / Radiology
   96 K/uL
   13.4 g/dL
   249 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.5 mEq/L
   24 mg/dL
   110 mEq/L
   141 mEq/L
   38.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2160-5-29**]  02:33 AM
                             [**2160-5-29**]  04:22 AM
   WBC
   12.4
   Hct
   38.8
   Plt
   96
   Cr
   1.1
   TCO2
   20
   Glucose
   249
   Other labs: PT / PTT / INR:17.9/30.7/1.6, ALT / AST:52/49, Alk Phos / T
   Bili:207/1.0, Fibrinogen:493 mg/dL, Lactic Acid:1.5 mmol/L, Mg++:1.8
   mg/dL
   Micro
   [**5-28**] blood cx NGTD
   [**5-28**] urine cx NGTD
   [**5-28**] urine legionella antigen negative
   No sputum yet
   CXR [**5-28**]
   FINDINGS: AP upright portable chest radiograph is obtained. Midline
   sternotomy wires and mediastinal clips are compatible with prior CABG.
   The
   heart remains enlarged. There is patchy airspace consolidation in the
   right
   mid and lower lung concerning for pneumonia. The left lung is clear.
   Mediastinal contour is stable. No pneumothorax is seen. There may be a
   small
   right pleural effusion. Bony structures appear intact.
   IMPRESSION: Right lung pneumonia.
   Assessment and Plan
   This 88M with h/o CAD, CHF, DM, and prior DVT presents with rigors,
   n/v.
   .
   * Septic shock
   Hypotension most likely secondary to sepsis, with suspected underlying
   pneumonia. However pt also has pyuria, so a GU source is another
   possible source. Pt reports n/v raising question of GI source, but
   abdomen is benign and LFTs, lipase fairly unremarkable.
   - Appears well volume resuscitated currently (targeting CVP 8-10)
   - Continue levophed MAP>65, wean as tolerated
   - Follow urine output, needs to have foley placed
   - Follow up urine, blood, sputum cultures
   .
   * Pneumonia
   Respiratory status improved this AM
   Pt coming from home without recent hospitalizations since the winter,
   therefore more highly resistant organisms less likely. Sputum ~10 years
   prior in OMR with M. catarrhalis, H. influenzae. Further back, he did
   have Sternotrophomonas. GI symptoms raise question of legionella.
   History and chest film less suggestive of a viral pna (eg influenza).
   - Continue ceftriaxone and azithromycin
   - Sputum gram stain and cx
   - Wean O2 as tolerated
   - Follow up cultures and CIS
   .
   * [**Name (NI) **]
   Pt with mildly elevated transaminases and total bilirubin, priors from
   [**4-15**] were within normal limits. Might have mild hepatic congestion
   given CHF. [**Month (only) 8**] also reflect systemic infection. Think cholangitis or
   acute viral hepatitis much less likely.
   - Add on direct bilirubin
   - Continue to follow daily
   - Obtain RUQ/ US
   .
   * Thrombocytopenia
   Review of OMR shows prior plts in the low 100's; he is slightly down
   from baseline today. Think DIC less likely, though must be vigilant in
   setting of sepsis. Fibrinogen WNL
   - Continue to follow CBC daily
   .
   * CHF, chronic, diastolic
   Holding BB and lasix in the setting of hypotension
   .
   * CAD
   Continue ASA and statin, holding BB as above. Tropn low level elevation
   consistent with priors in OMR.
   .
   * DM
   Hold home glipizide, cover with sliding scale goal fingersticks<150
   .
   * CRI
   Cr at baseline, follow renally dose meds as appropriate
   .
   * BPH
   Place foley, continue tamsulosin
   - Foley placed by urology
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Comments: tighten humalog sliding scale
   Lines:
   Multi Lumen - [**2160-5-29**] 12:18 AM
   18 Gauge - [**2160-5-29**] 12:18 AM
   Arterial Line - [**2160-5-29**] 02:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI will confirm with HCP
   Disposition:ICU

2160-05-30 07:10:00 Physician Resident Progress Note
Chief Complaint: rigors
   24 Hour Events:
   - unable to place coude foley at bedside - pt has h/o strictures and
   previously required cystoscopic placement. urology placed with
   cystoscopy
   - admit blood cultures 3/4 bottles with GNR. 1 of these 3 also with GPC
   in pairs. subcultured, prelim sensis should be available fri. lab
   thinks GNRs might be enterics, but formal testing pending
   - changes to vanc/zosyn/cipro given GNR/GPC bacteremia
   - SBP trended down again overnight, given 500 cc LR bolus w/o increase
   so NE was re-started
   - RUQ U/S w/o biliary ductal dillitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2160-5-29**] 02:00 AM
   Vancomycin - [**2160-5-29**] 04:00 PM
   Ciprofloxacin - [**2160-5-30**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-5-30**] 06:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Doing well, no complaints. Breathing better today.
   Flowsheet Data as of  [**2160-5-30**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 84 (63 - 84) bpm
   BP: 109/40(51) {109/40(51) - 109/40(51)} mmHg
   RR: 28 (12 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 19 (7 - 23)mmHg
   Total In:
                                                                  7,843 mL
                                                                    431 mL
   PO:
                                                                    200 mL
   TF:
   IVF:
                                                                  2,643 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    270 mL
   Urine:
                                                                  1,040 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,803 mL
                                                                    161 mL
   Respiratory support
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   Lying in bed, off O2 appears comfortable
   Regular S1 S2 soft systolic murmur LLSB
   Lungs with few rales R mid field, no wheezing
   Abd soft nontender +bowel sounds
   Extrem warm tr bilateral edema palpable pulses
   Alert and awake, answering appropriately, hard of hearing
   Lines/tubes RIJ, L a line, foley
   Labs / Radiology
   73 K/uL
   12.0 g/dL
   93 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.7 mEq/L
   23 mg/dL
   110 mEq/L
   139 mEq/L
   34.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2160-5-29**]  02:33 AM
                             [**2160-5-29**]  04:22 AM
                             [**2160-5-30**]  04:52 AM
   WBC
   12.4
   5.6
   Hct
   38.8
   34.6
   Plt
   96
   73
   Cr
   1.1
   1.1
   TCO2
   20
   Glucose
   249
   93
   Other labs: PT / PTT / INR:15.9/29.0/1.4, ALT / AST:44/35, Alk Phos / T
   Bili:197/1.1, Differential-Neuts:85.0 %, Band:3.0 %, Lymph:1.0 %,
   Mono:10.0 %, Eos:0.0 %, Fibrinogen:493 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   CXR R pleural plaque (old) with tracking effusion, decreased R sided
   infiltrate
   RUQ u/s [**5-29**]
   ABDOMINAL ULTRASOUND: Comparison is made to prior examination of
   [**2160-2-11**].
   There is no intrahepatic biliary ductal dilatation. A 1.7 cm cyst is
   seen in
   the liver. The patient is status post cholecystectomy. The common bile
   duct
   is normal measuring 6 mm. A small amount of ascites is seen surrounding
   the
   liver. The spleen is normal in size at 11.5 cm. A 2.5 cm cyst is seen
   in the
   upper pole of the right kidney.
   IMPRESSION: No evidence for biliary ductal dilatation.
   Micro
   [**5-28**] 3 of 4 bottles with GNR, 1 of these 3 with GPC in pairs
 now ID
   as enterococcus. GNRs prelim pan S
   [**5-28**], [**5-29**] urine cx pending
   [**5-28**] urine legionella negative
   [**5-29**], [**5-30**] blood cx NGTD
   Assessment and Plan
   This 88M with h/o CAD, CHF, DM, and prior DVT presents with rigors,
   n/v.
   .
   * Septic shock
   Continues to require small doses of vasopressors, though is clinically
   improved from admission and urine output adequate.
   Initially concerned for pulmonary source given R sided infiltrate
   versus GU infection given pyuria on presenting UA.  The presence of
   polymicrobial bacteremia was unexpected, and suggesting either:
   contamination from skin flora (less likely), or translocation from
   GI/biliary tract. RUQ ultrasound yesterday unremarkable.
   - Appears well volume resuscitated currently (targeting CVP 8-10)
   - Continue levophed MAP>65, wean as tolerated
   - Follow up urine and blood cultures, attempt to obtain sputum if
   possible
   - Continue vancomycin for enterococcus, drop zosyn and cipro,  change
   to ceftriaxone for GNR coverage (and CAP)
   - Discuss with family whether he has has had a colonoscopy previously
   - CT abd r/o asbcess
   .
   * Pneumonia
   Respiratory status now much improved, with adequate sats on room air.
   - Antibiotics as above for now, attempt to obtain sputum
   .
   * Transaminitis
   LFTs mildly elevated at admission, but trending down without specific
   intervention.
   Pt with mildly elevated transaminases and total bilirubin, priors from
   [**4-15**] were within normal limits. Might have mild hepatic congestion
   given CHF. [**Month (only) 8**] also reflect systemic infection. Think cholangitis or
   acute viral hepatitis much less likely
 RUQ ultrasound fairly
   unremarkable. Question whether he may have some underlying liver
   disease give low alb and plts, elevated INR, ascites; u/s did not
   comment on cirrhosis specifically
   - Continue to follow daily
   .
   * Thrombocytopenia
   Slightly down from admission, previously running in the low 100
s. Nl
   fibrinogen arguing against DIC. [**Month (only) 8**] have some underlying liver disease
   as above which could be contributory.
   - Continue to follow CBC daily
   .
   * CHF, chronic, diastolic
   Holding BB and lasix in the setting of hypotension
   .
   * CAD
   Continue ASA and statin, holding BB as above. Tropn low level elevation
   consistent with priors in OMR.
   .
   * DM
   Hold home glipizide, cover with sliding scale goal fingersticks<150
   .
   * BPH with h/o urethral stricture
   Foley placed by urology, DC when off pressors and BP stable
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Comments: humalog sliding scale, glucose improved
   Lines:
   Multi Lumen - [**2160-5-29**] 12:18 AM
   18 Gauge - [**2160-5-29**] 12:18 AM
   Arterial Line - [**2160-5-29**] 02:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:  with family
   Code status: DNR / DNI confirmed with HCP
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname **] has needed pressor support overnight again. He is now
   weaned off levophed and O2 too. He reports a change in his bowel habits
   over the past month (constipation) preceeding this presentation with
   sepsis. He has GNR in blood (
) and enterococcus too. He will benefit
   from an abdominal CT scan today in light of this. We will also check an
   echo today to ensure that his valves are without vegetation. He will
   need ICU level care until he has had no signs of worsening hemodynamic
   instability.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2160-5-30**] 12:49 ------

2160-05-31 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Successfully weaned off pressors, clnically improved
   - Micro not fully speciated
   - Echo: EF 55%, 2+ MR, 3+ TR, otherwise unremarkable
   - CT Abd/Pelvis: thickening of bladder c/w cystitis.  Mild thickening
   of ascending colon ? colitis.  Rim around pleural effusion which could
   be plague but cannot rule out empyema
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2160-5-29**] 02:00 AM
   Ciprofloxacin - [**2160-5-30**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-5-30**] 06:07 AM
   Vancomycin - [**2160-5-30**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-5-30**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-31**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 82 (70 - 86) bpm
   BP: 109/40(51) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (0 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (5 - 22)mmHg
   Total In:
                                                                  2,310 mL
                                                                     76 mL
   PO:
                                                                  1,310 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    660 mL
   Urine:
                                                                  1,980 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    330 mL
                                                                   -585 mL
   Respiratory support
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Vitals 97.2 82 86/52 25 98% NRB CVP 11
   General Pleasant elderly man, mildly tachypneic
   HEENT Sclera white, conjunctiva pale, MMM
   Neck RIJ in place
   Pulm Lungs with few bilateral rales R>L, +egophony
   CV Regular S1 S2 soft systolic murmur at apex. Well healed sternotomy
   scar
   Abd Soft nontender +bowel sounds RUQ scar
   Extrem Warm 1+ bilateral edema and hyperpigmentation RLE (site of prior
   DVT). Palpable distal pulses
   Neuro Alert and awake, answering appropriately, moving all extremities
   no gross deficits
   Labs / Radiology
   76 K/uL
   12.0 g/dL
   120 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.8 mEq/L
   18 mg/dL
   108 mEq/L
   138 mEq/L
   35.3 %
   3.6 K/uL
        [image002.jpg]
                             [**2160-5-29**]  02:33 AM
                             [**2160-5-29**]  04:22 AM
                             [**2160-5-30**]  04:52 AM
                             [**2160-5-31**]  04:14 AM
   WBC
   12.4
   5.6
   3.6
   Hct
   38.8
   34.6
   35.3
   Plt
   96
   73
   76
   Cr
   1.1
   1.1
   1.1
   TCO2
   20
   Glucose
   249
   93
   120
   Other labs: PT / PTT / INR:15.9/29.0/1.4, ALT / AST:44/35, Alk Phos / T
   Bili:197/1.1, Differential-Neuts:84.0 %, Band:3.0 %, Lymph:7.8 %,
   Mono:6.7 %, Eos:1.1 %, Fibrinogen:493 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 THROMBOCYTOPENIA, CHRONIC
 LIVER FUNCTION ABNORMALITIES
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-5-29**] 12:18 AM
   18 Gauge - [**2160-5-29**] 12:18 AM
   Arterial Line - [**2160-5-29**] 02:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2160-05-31 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88yo male with septic shock due to Enterococcus and GNR bacteremia and
   multilobar pneumonia.
   24 Hour Events:
   Weaned off pressors yest. No complaints today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2160-5-29**] 02:00 AM
   Ciprofloxacin - [**2160-5-30**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-5-30**] 06:07 AM
   Vancomycin - [**2160-5-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-5-30**] 08:45 PM
   Pantoprazole (Protonix) - [**2160-5-31**] 09:00 AM
   Other medications:
   Flomax, Colace, [**Last Name (LF) **], [**First Name3 (LF) 119**], Simvastatin 20 qd, Protonix, Hep 5k tid,
   Vanco 1g q12, CTX 1g q24
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-31**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 80 (70 - 86) bpm
   BP: 109/40(51) {0/0(0) - 0/0(0)} mmHg
   RR: 19 (0 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 4 (3 - 22)mmHg
   Total In:
                                                                  2,310 mL
                                                                    456 mL
   PO:
                                                                  1,310 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    885 mL
   Urine:
                                                                  1,980 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    330 mL
                                                                   -429 mL
   Respiratory support
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: Systolic),
   precordial murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : R base), (Breath Sounds:
   Crackles : throughout, Wheezes : scattered, Diminished: R base)
   Abdominal: Tender: suprapubic, no rebound or guarding
   Extremities: Right: 1+, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   76 K/uL
   120 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.8 mEq/L
   18 mg/dL
   108 mEq/L
   138 mEq/L
   35.3 %
   3.6 K/uL
        [image002.jpg]
                             [**2160-5-29**]  02:33 AM
                             [**2160-5-29**]  04:22 AM
                             [**2160-5-30**]  04:52 AM
                             [**2160-5-31**]  04:14 AM
   WBC
   12.4
   5.6
   3.6
   Hct
   38.8
   34.6
   35.3
   Plt
   96
   73
   76
   Cr
   1.1
   1.1
   1.1
   TCO2
   20
   Glucose
   249
   93
   120
   Other labs: PT / PTT / INR:15.9/29.0/1.4, ALT / AST:44/35, Alk Phos / T
   Bili:197/1.1, Differential-Neuts:84.0 %, Band:3.0 %, Lymph:7.8 %,
   Mono:6.7 %, Eos:1.1 %, Fibrinogen:493 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Imaging: Echo ([**5-30**])- MR [**First Name (Titles) **] [**Last Name (Titles) **], nl EF
   CT a/p ([**5-30**])- bladder thickening, mild bowel wall thickening,loculate
   R effusion w/ rim suggesting plaque vs empyema
   Microbiology: Blood 5/20- GNRs and Enterococcus
   Blood 5/21, [**5-30**]- pending
   Assessment and Plan
   * Septic shock- lungs, GI, GU tracts as possible sources with
   bacteremia
   - Appears well volume resuscitated currently (targeting CVP 8-10), off
   pressors
   - Follow up urine and blood cultures, attempt to obtain sputum if
   possible
   - Continue vancomycin for enterococcus, ceftriaxone for GNR coverage
   (and CAP)
   * Pneumonia- Respiratory status now much improved, with adequate sats
   on room air.
   -prn inhalers for wheezing which may be related to some element of
   cardiogenic edema given pos fluid balance
   -ABX as above
   -follwup imaging to assess effusion. If develops fevers, decompensates
   will pursue drainage
   * Thrombocytopenia- Slightly down from admission, previously running in
   the low 100
s. Nl fibrinogen arguing against DIC. [**Month (only) 8**] have some
   underlying liver disease as above which could be contributory.
   - Continue to follow CBC daily
   * CHF, chronic, diastolic- Holding BB and lasix in the setting of
   hypotension
   * CAD- Continue [**Month (only) 119**] and statin, holding BB as above. Tropn low level
   elevation consistent with priors in OMR.
   * DM- Hold home glipizide, cover with sliding scale goal
   fingersticks<150
   * BPH with h/o urethral stricture
   -Foley placed by urology, DC when off pressors and BP stable
   ICU Care
   Nutrition: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2160-5-29**] 12:18 AM
   18 Gauge - [**2160-5-29**] 12:18 AM
   Arterial Line - [**2160-5-29**] 02:36 AM
   Comments: dc a line today and TLC
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes